US06362177B1
Preparation of 3-Amino-1-(4-chlorobenzyl)homopiperidine
A solution of 3-aminohomopiperidine (1.71 g, 15 mmol) in CH3CN (45 mL) was treated with p-chlorobenzyl chloride (463 mg, 2.9 mmol) and K2CO3 (828 g, 6 mmol) and heated to 70° C. for 9 h. The reaction mixture was cooled to 25° C. and concentrated to afford a yellow solid. The residue was partitioned between H2O (5 mL) and EtOAc (50 mL), and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with brine (20 mL), dried (Na2SO4) and concentrated. The resulting yellow oil was purified by chromatography (SiO2, 5-20% CH3OH—CH2Cl2 gradient elution) to afford the desired product as a yellow oil (639 mg, 93%).

reactant | 3-aminohomopiperidine | 15 mmol, 1.71 g | NC1CNCCCC1 | C6H14N2
reactant | p-chlorobenzyl chloride | 2.9 mmol, 463 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | K2CO3 | 6 mmol, 828 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 45 mL | CC#N | C2H3N
product | 3-Amino-1-(4-chlorobenzyl)homopiperidine | 639 mg, 93% | NC1CN(CCCC1)CC1=CC=C(C=C1)Cl | C13H19ClN2
